US04025641
1-Bromo-4-isopropoxy-butane
The above compound is produced in analogous manner to that described in Example 10, but using isopropanol and 1,4-dibromo butane and sodium instead of sodium hydride. B.P.: 90°-91°/34 mm Hg.

reactant | 1,4-dibromo butane | BrCCCCBr | C4H8Br2
reactant | sodium | [Na] | Na
reactant | isopropanol | C(C)(C)O | C3H8O
product | 1-Bromo-4-isopropoxy-butane | BrCCCCOC(C)C | C7H15BrO
